US05554621
Example 24: 1,4-Dihydro-4-[3-[[4-chloro-1-oxo-1-butyl]amino]phenyl]-2,6-dimethyl-3,5-pyridinedicarboxylic acid, dimethyl ester
4-(3-Aminophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid, dimethyl ester (1.0 g, 3.16 mmol) was dissolved in THF (50 mL) and cooled to 0° C. 4-Chlorobutyryl chloride (0.446 g, 3.16 mmol) was dissolved in THF (10 mL) and added dropwise to the mixture over 5 min. The mixture was stirred at 0° C. for 0.5 h. and then at 23° C. for 1 h. The solvent was removed in vacuo and the concentrate chromatographed over silica gel (1:4 to 1:0 EtOAc:hexane gradient) to give the title compound (1.33 g, 100%) as a pale yellow foam.

reactant | 4-(3-Aminophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid, dimethyl ester | 3.16 mmol, 1.0 g | NC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C17H20N2O4
reactant | 4-Chlorobutyryl chloride | 3.16 mmol, 0.446 g | ClCCCC(=O)Cl | C4H6Cl2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1,4-Dihydro-4-[3-[[4-chloro-1-oxo-1-butyl]amino]phenyl]-2,6-dimethyl-3,5-pyridinedicarboxylic acid, dimethyl ester | 1.33 g, 100% | ClCCCC(=O)NC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C21H25ClN2O5
